US09371320B2
B) 2-(4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridin-1-yl)cyclohexanone
To a solution of oxalyl chloride (910 mg) in dichloromethane (3 mL) was added DMSO (670 mg) under nitrogen atmosphere at −78° C. The reaction mixture was stirred for 30 min, and a solution of 2-(4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridin-1-yl)cyclohexanol (350 mg) in dichloromethane (2 mL) was added thereto. The reaction mixture was stirred at −78° C. for 1 hr, and triethylamine (1.2 g) was added thereto. The reaction mixture was stirred at −78° C. for 1.5 hr, and added to ice-water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium carbonate solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (190 mg).

reactant | oxalyl chloride | 910 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 670 mg | CS(=O)C | C2H6OS
reactant | 2-(4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridin-1-yl)cyclohexanol | 350 mg | COC1=NC=CC2=C1C(=NN2C2C(CCCC2)O)C2=CC=C(C=C2)N2CCOCC2 | C23H28N4O3
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridin-1-yl)cyclohexanone | 190 mg | COC1=NC=CC2=C1C(=NN2C2C(CCCC2)=O)C2=CC=C(C=C2)N2CCOCC2 | C23H26N4O3
